US09102688B2
General Procedure 10: 6-Cyanopyridine-3-sulfonyl chloride (Intermediate 19)
SOCl2 (1.8 ml, 24.8 mmol) was added dropwise to ice water and stirred for 18 h at room temperature. CuCl2 (22 mg, 0.22 mmol) was added at 0° C. and the mixture was stirred for 15 min. In a separate flask, a solution of NaNO2 (450 mg, 6.52 mmol) in water (4.5 ml) was added to a stirred solution of 5-amino-pyridine-2-carbonitrile (534 mg, 4.5 mmol) in conc. HCl (4.5 ml) at 0° C., over 15 min. The diazonium salt solution was added dropwise to the thionyl chloride/CuCl2 solution at 0° C. and stirring was continued for 1 h. The reaction mixture was extracted with DCM and the combined organic phases were dried (Na2SO4) and concentrated in vacuo to give the title compound (620 mg) which was used in the next step without purification. The structure was confirmed by 1H NMR.

reactant | SOCl2 | 24.8 mmol, 1.8 ml | O=S(Cl)Cl | Cl2OS
reactant | NaNO2 | 6.52 mmol, 450 mg | N(=O)[O-].[Na+]
reactant | 5-amino-pyridine-2-carbonitrile | 4.5 mmol, 534 mg | NC=1C=CC(=NC1)C#N | C6H5N3
solvent | water | 4.5 ml | O | H2O
solvent | HCl | 4.5 ml | Cl | ClH
product | 6-Cyanopyridine-3-sulfonyl chloride | 620 mg | C(#N)C1=CC=C(C=N1)S(=O)(=O)Cl | C6H3ClN2O2S
